US08748613B2
Preparation of (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetate (I104)
A mixture of 2-oxoacetic acid hydrate (216 mg, 2.34 mmol), piperidine (0.23 ml, 2.34 mmol) and thiophen-2-ylboronic acid (300 mg, 2.34 mmol) in acetonitrile (11.7 ml) was heated to reflux for 2.5 hours. The reaction was cooled at room temperature and the suspension was filtered on a buckner funnel washing with acetonitrile (10 ml). The solid was recovered from the filter giving the title compound (528 mg, quantitative yield) as a white solid.

reactant | 2-oxoacetic acid hydrate | 2.34 mmol, 216 mg | O.O=CC(=O)O
reactant | piperidine | 2.34 mmol, 0.23 ml | N1CCCCC1 | C5H11N
reactant | thiophen-2-ylboronic acid | 2.34 mmol, 300 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | acetonitrile | 11.7 ml | C(C)#N | C2H3N
product | (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetate | 528 mg, quantitative yield | N1(CCCCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C=2SC=CC2 | C18H26N2O2S
